US07790709B2
Preparation of (1,7-dimethyl-1H-indol-2-ylmethyl)methylamine
To a solution of 1,7-dimethylindole (2.85 g, 19.6 mmol) and TMEDA (3.3 mL, 21.6 mmol) in diethyl ether (30 mL) at −30° C. under N2 was added n-butyllithium (13.5 mL of a 1.6 M solution in hexanes, 21.6 mmol) dropwise. The resulting orange solution was heated to reflux for 1 h and then DMF (4.6 mL, 58.8 mmol) was added in one portion. The solution was stirred at room temperature overnight. Saturated aqueous NH4Cl solution was added and the mixture was then extracted with ethyl acetate (3×150 mL). The combined organics were washed with water (100 mL) and brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to provide an orange oil. Purification by flash column chromatography (silica gel, hexanes/ethyl acetate, 95:5) gave the title compound (1.57 g, 46%) as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 9.83 (s, 1H), 7.54 (d, J=7.8 Hz, 1H), 7.21 (s, 1H), 7.09-7.02 (m, 2H), 4.39 (s, 3H), 2.79 (s, 3H).

reactant | 1,7-dimethylindole | 19.6 mmol, 2.85 g | CN1C=CC2=CC=CC(=C12)C | C10H11N
reactant | TMEDA | 21.6 mmol, 3.3 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 58.8 mmol, 4.6 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | (1,7-dimethyl-1H-indol-2-ylmethyl)methylamine | 1.57 g, 46% | CN1C(=CC2=CC=CC(=C12)C)CNC | C12H16N2
